US09278968B2
To a mixture of 575 mg of methyl (5-methylpyridin-2-yl)acetate and 11.5 ml of DMF were added 314 mg of paraformaldehyde and 38 mg of sodium methoxide under ice-cooling, followed by stirring at room temperature for 24 hours. The reaction mixture was ice-cooled and 50 μl of acetic acid was added thereto, followed by concentrating under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 462 mg of methyl 3-hydroxy-2-(hydroxymethyl)-2-(5-methylpyridin-2-yl)propanoate.

reactant | methyl (5-methylpyridin-2-yl)acetate | 575 mg | CC=1C=CC(=NC1)CC(=O)OC | C9H11NO2
reactant | DMF | 11.5 ml | CN(C)C=O | C3H7NO
reactant | paraformaldehyde | 314 mg | C=O | CH2O
reactant | sodium methoxide | 38 mg | C[O-].[Na+]
solvent | acetic acid | 50 μl | C(C)(=O)O | C2H4O2
product | methyl 3-hydroxy-2-(hydroxymethyl)-2-(5-methylpyridin-2-yl)propanoate | 462 mg | OCC(C(=O)OC)(C1=NC=C(C=C1)C)CO | C11H15NO4
